US07282501B2
Step D: Toluene-4-sulfonic acid 2-{5-methyl-2-[4-(methyl-phenyl-amino)-phenyl]-oxazol-4-yl}-ethyl ester
A solution of 2-{5-methyl-2-[4-(methyl-phenyl-amino)-phenyl]-oxazol-4-yl}-ethanol (91 mg, 0.30 mmol) in CH2Cl2 (4.0 mL) was treated with para-toluenesulfonyl chloride (68 mg, 0.36 mmol), triethyl amine (0.20 mL) and a few crystals of DMAP. The resulting mixture was stirred at room temperature for 14 h and was quenched with water (0.2 mL). The mixture was purified directly by silica gel column chromatography (40% EtOAc/hexanes) to yield the title compound (120 mg, 83%). MS (ESI) m/z 463.1 (M+H)+.

reactant | 2-{5-methyl-2-[4-(methyl-phenyl-amino)-phenyl]-oxazol-4-yl}-ethanol | 0.30 mmol, 91 mg | CC1=C(N=C(O1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C)CCO | C19H20N2O2
reactant | para-toluenesulfonyl chloride | 0.36 mmol, 68 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethyl amine | 0.20 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 4.0 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | Toluene-4-sulfonic acid 2-{5-methyl-2-[4-(methyl-phenyl-amino)-phenyl]-oxazol-4-yl}-ethyl ester | 120 mg, 83% | CC1=C(N=C(O1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C)CCOS(=O)(=O)C1=CC=C(C=C1)C | C26H26N2O4S
